US09402841B2
Step B: (S)-tert-butyl 3-(methyl(3-(5-oxo-4,5-dihydro-1H-1,2,4-triazol-3-yl)isoquinolin-1-yl)amino)pyrrolidine-1-carboxylate
To crude (S)-tert-butyl 3-((3-cyanoisoquinolin-1-yl)(methyl)amino)pyrrolidine-1-carboxylate (0.245 g) in NMP (1 mL) was added ethyl hydrazinecarboxylate (0.289 g, 2.78 mmol). The reaction mixture was heated at 175° C. for 2 days and was subsequently cooled, diluted with EtOAc, and washed with aqueous NH4Cl. The organic phase was separated, dried, and concentrated. The crude product was purified by HPLC to give the title compound (91 mg, 32% over 2 steps).

reactant | (S)-tert-butyl 3-((3-cyanoisoquinolin-1-yl)(methyl)amino)pyrrolidine-1-carboxylate | 0.245 g | C(#N)C=1N=C(C2=CC=CC=C2C1)N([C@@H]1CN(CC1)C(=O)OC(C)(C)C)C | C20H24N4O2
reactant | ethyl hydrazinecarboxylate | 2.78 mmol, 0.289 g | N(N)C(=O)OCC | C3H8N2O2
reactant | NMP | 1 mL | CN1CCCC1=O | C5H9NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (S)-tert-butyl 3-(methyl(3-(5-oxo-4,5-dihydro-1H-1,2,4-triazol-3-yl)isoquinolin-1-yl)amino)pyrrolidine-1-carboxylate | 91 mg, 32% | CN([C@@H]1CN(CC1)C(=O)OC(C)(C)C)C1=NC(=CC2=CC=CC=C12)C1=NNC(N1)=O | C21H26N6O3
